US08384068B2
1-(4′-methoxycarbonylphenyl)-3-methylimidazolium iodide
A solution of 1-(4′-methoxycarbonylphenyl)imidazole (153 g, 0.76 mol) in 1:1 THF/methanol (600 ml) is admixed with methyl iodide (196 ml, 2.27 mol) and stirred at room temperature under argon for 16 h. After concentration of the solution, the precipitated product is filtered off and washed with THF. Yield: 59%.

reactant | 1-(4′-methoxycarbonylphenyl)imidazole | 0.76 mol, 153 g | COC(=O)C1=CC=C(C=C1)N1C=NC=C1 | C11H10N2O2
reactant | methyl iodide | 2.27 mol, 196 ml | CI | CH3I
solvent | THF methanol | 600 ml | C1CCOC1.CO
product | 1-(4′-methoxycarbonylphenyl)-3-methylimidazolium iodide | Yield: 59% | [I-].COC(=O)C1=CC=C(C=C1)[N+]1=CN(C=C1)C | InChI=1S/C12H13N2O2.HI/c1-13-7-8-14(9-13)11-5-3-10(4-6-11)12(15)16-2;/h3-9H,1-2H3;1H/q+1;/p-1
